US05420285
Synthesis of 2-(BOC-Hydrazino)-5-Nitropyridine
To a stirred solution of 2-hydrazino-5-nitropyridine (1 equivalent), DMF (15 ml/gm of pyridine), and triethylamine (1.1 equivalents) was added dropwise a solution of di-tert-butyl dicarbonate (1.0 equivalent) in DMF (4 ml/gm of dicarbonate). The reaction mixture was stirred at 20° for 48 hours. The reaction mixture was concentrated under reduced pressure to a yellow brown oil. Flash vacuum chromatography (hexanes/ethyl acetate (8/2)) was used to isolate the product. The product was recrystallized from ethyl acetate/hexanes; yield 63.4%; m.p. 135°-137°. IR (KBr): 3280, 2980, 1710, 1600, 1500, 1330, 1290, 1270, 1250, 1150, 1120, 1010, 830, 760, 650, 500 cm-1.

reactant | 2-hydrazino-5-nitropyridine | 1 equivalent | N(N)C1=NC=C(C=C1)[N+](=O)[O-] | C5H6N4O2
reactant | triethylamine | 1.1 equivalents | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.0 equivalent | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(BOC-Hydrazino)-5-Nitropyridine | yield 63.4% | C(=O)(OC(C)(C)C)NNC1=NC=C(C=C1)[N+](=O)[O-] | C10H14N4O4
